US04990536
(v) 19-Guanidino-11-hydroxy-10,13-dioxo-4,9,12-triazanonadecanoic acid hydrochloride:
0.95 g (1.53 mmol) of t-butyl 11-benzyloxy-19-guanidino-10,13-dioxo-4,9,12-triazanonadecanoate dihydrochloride was dissolved in 10 ml of trifluoroacetic acid under ice-cooling and then allowed to react at room temperature overnight. The trifluoroacetic acid was distilled off under reduced pressure and the residue was dissolved in 10 ml of distilled water. After washing with 1,2-dichloroethane, the pH value of the product was adjusted to 5.0 with 1N NaOH. Then it was diluted to approximately 2 l with distilled water, adsorbed on 125 ml of CM-Sephadex® C-25 (Na) and subjected to gradient elution between 1 l of distilled water and 1 l of 0.07M sodium chloride. The target fractions were combined and concentrated to dryness. The insoluble matters were filter off using 90% ethanol and the filtrate was further desalted with 100 ml of Diaion® HP-20. By eluting with distilled water and lyophilizing, 149.5 mg of the aimed compound was obtained (yield: 22.3%).

reactant | t-butyl 11-benzyloxy-19-guanidino-10,13-dioxo-4,9,12-triazanonadecanoate dihydrochloride | 1.53 mmol, 0.95 g | Cl.Cl.C(C1=CC=CC=C1)OC(C(NCCCCNCCC(=O)OC(C)(C)C)=O)NC(CCCCCCNC(=N)N)=O
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 19-Guanidino-11-hydroxy-10,13-dioxo-4,9,12-triazanonadecanoic acid hydrochloride | 149.5 mg, yield: 22.3% | Cl.N(C(=N)N)CCCCCCC(NC(C(NCCCCNCCC(=O)O)=O)O)=O | InChI=1S/C17H34N6O5.ClH/c18-17(19)22-11-4-2-1-3-7-13(24)23-16(28)15(27)21-10-6-5-9-20-12-8-14(25)26;/h16,20,28H,1-12H2,(H,21,27)(H,23,24)(H,25,26)(H4,18,19,22);1H
